US08404709B2
3-Acetyl-2-methyl-4-[4-nitro-2-(trifluoromethyl)phenyl]-4,6-dihydro-1,6-naphthyridin-5(1H)-one
1.28 g (4.24 mmol) of 3-[4-nitro-2-(trifluoromethyl)benzylidene]pentane-2,4-dione and 484 mg (4.24 mmol) of 4-aminopyridin-2(1H)-one [Searls, T., McLaughlin, L. W., Tetrahedron 55, 11985-11996 (1999)] are dissolved in 25 ml of isopropanol and heated under reflux under argon for 12 h. Cooling is followed by filtration, and the remaining solid is washed with diethyl ether (40 ml). 990 mg (58% of theory) of the title compound are obtained as a white solid.

reactant | 3-[4-nitro-2-(trifluoromethyl)benzylidene]pentane-2,4-dione | 4.24 mmol, 1.28 g | [N+](=O)([O-])C1=CC(=C(C=C(C(C)=O)C(C)=O)C=C1)C(F)(F)F | C13H10F3NO4
reactant | 4-aminopyridin-2(1H)-one | 4.24 mmol, 484 mg | NC1=CC(NC=C1)=O | C5H6N2O
solvent | isopropanol | 25 ml | C(C)(C)O | C3H8O
product | 3-Acetyl-2-methyl-4-[4-nitro-2-(trifluoromethyl)phenyl]-4,6-dihydro-1,6-naphthyridin-5(1H)-one | C(C)(=O)C1=C(NC=2C=CNC(C2C1C1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F)=O)C | C18H14F3N3O4
